US08685977B2
5-Chloro-2-fluoro-4-methyl-N-(methylsulfonyl)benzamide
To 5-chloro-2-fluoro-4-methylbenzoic acid (200 g, 1.06 mol) in DCM (1.4 L) was added methanesulphonamide (152 g, 1.6 mol), 4-(dimethylamino)pyridine (183 g 1.6 mol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (306 g, 1.6 mol). The reaction mixture spontaneously heated at 30° C. over 30 minutes, then it was stirred at room temperature for 18 hours under a nitrogen atmosphere. The reaction was washed with aqueous hydrochloric acid (4 M, 0.8 L). The organic layer was separated, washed with water (500 mL), dried over sodium sulphate and concentrated in vacuo to yield a tan solid, which was recrystallised from hot EtOAc (0.9 L) by addition of n-heptane (100 mL) and cooling to yield the title compound (118 g, 45%).

reactant | 5-chloro-2-fluoro-4-methylbenzoic acid | 1.06 mol, 200 g | ClC=1C(=CC(=C(C(=O)O)C1)F)C | C8H6ClFO2
reactant | methanesulphonamide | 1.6 mol, 152 g | CS(=O)(=O)N | CH5NO2S
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.6 mol, 306 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 1.4 L | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 1.6 mol, 183 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Chloro-2-fluoro-4-methyl-N-(methylsulfonyl)benzamide | 118 g, 45% | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)C)C1)F)C | C9H9ClFNO3S
